US09212182B2
To a solution of 1-(4-bromo-2-(cyanomethoxy)-5-fluorophenyl)-N-(isoxazol-3-yl)-N-(4-methoxybenzyl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (53.1 mg, 0.083 mmol) in DCM (830 μl) at RT was added trifluoromethanesulfonic acid (22.11 μl, 0.249 mmol). The resulting solution was stirred for 2.5 hours and LCMS indicated that the reaction had not proceeded. Additional 0.010 mL was then added and the resulting mixture stirred for 16 hr. The reaction mixture was concentrated by sending a stream of N2 gas into the uncapped reaction vial. The residue was then dissolved in 1 ml of DMSO and 0.050 mL of saturated NaHCO3 was added and the resulting mixture was stirred for 5 minutes. The solution was then passed through a 0.20 micron filter. An additional 0.5 ml was used to sinse the reaction vial and the solution was passed through the same filter. The DMSO solution was purified by reverse-phase HPLC (Waters XBridge Prep Shield RP18 10 μm OBD 19×100 mm) gradient, 5 to 30% MeCN in water (containing 0.1% ammonium hydroxide as an additive), flow rate 40 mL/min to yield 1-(4-bromo-2-(cyanomethoxy)-5-fluorophenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (5.2 mgs, 12% yield). 1H NMR (500 MHz, DMSO-d6) □=ppm 5.13-5.22 (m, 2 H) 6.22 (s, 1 H) 6.73 (dd, J=9.21, 4.41 Hz, 2 H) 7.70 (d, J=8.56 Hz, 1H) 7.75 (dd, J=8.92, 1.85 Hz, 1 H) 7.89 (d, J=6.10 Hz, 1 H) 8.18 (d, J=9.27 Hz, 1 H) 8.20-8.23 (m, 1 H) 8.37 (s, 1 H). m/z (ESI) 518.9 (M+H)+.

reactant | 1-(4-bromo-2-(cyanomethoxy)-5-fluorophenyl)-N-(isoxazol-3-yl)-N-(4-methoxybenzyl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 0.083 mmol, 53.1 mg | BrC1=CC(=C(C=C1F)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)N(CC1=CC=C(C=C1)OC)C1=NOC=C1)=O)OCC#N | C28H20BrFN4O6S
reactant | trifluoromethanesulfonic acid | 0.249 mmol, 22.11 μl | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | DCM | 830 μl | C(Cl)Cl | CH2Cl2
product | 1-(4-bromo-2-(cyanomethoxy)-5-fluorophenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 5.2 mgs, 12% yield | BrC1=CC(=C(C=C1F)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)OCC#N | C20H12BrFN4O5S
